data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_623166_1,[C:1](/[C:2]([O:5][H:8])=[N:6]/[N:3]([H:9])[H:10])([C:4](=[O:7])[H:13])([H:11])[H:12]>>[C:1](=[C:2]([O:5][H:8])[N:6]([N:3]([H:9])[H:10])[C:4](=[O:7])[H:13])([H:11])[H:12],51.13497500001927
MR_427000_0,[C:1]([C:2]([N:4]([C:5]([O:7][H:10])=[O:9])[N:6]([H:13])[H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([O:8][H:11])[H:12]>>[C:1]([C:2]([N:4]([C:5]([O:7][H:10])([O:9][H:11])[H:12])[N:6]([H:13])[H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[O:8],61.99072500000511
MR_288179_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])/[N:7]=[C:4](/[N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:16]>>[C:1]([N:3]1[C:4]([N:5]([H:9])[H:10])([O:6][H:8])[N:7]1[C:2]([H:13])([H:14])[H:15])([H:11])([H:12])[H:16],54.75502249997518
MR_217961_0,[C@@:1]1([O:6][H:8])([H:9])[C@:2]([C:5](=[O:7])[H:12])([H:10])[C@:3]1([C:4]([H:13])([H:14])[H:15])[H:11]>>[C:1](=[C:2](/[C@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:7])[H:12])[H:11])[H:10])(\[O:6][H:8])[H:9],64.85149749998754
MR_242182_1,[C:1]([N:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])/[C:5](=[C:6](\[O:8][H:9])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:5](/[C:6]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([O:8][H:9])[H:11])[H:10])([H:12])([H:13])[H:14],60.49162750000903
MR_145488_0,[C@:1]([C:2]([O:6][H:10])=[O:7])([C:3]([N:4]([H:12])[H:13])=[O:8])([O:5][H:9])[H:11]>>[C:1](=[C:2](\[O:6][H:10])[O:7][C:3]([N:4]([H:12])[H:13])=[O:8])(\[O:5][H:9])[H:11],71.5757874999889
MR_253513_0,[C@:1]([C:2]([O:7][H:9])([H:10])[H:11])([C:4]([H:15])([H:16])[H:17])([O:5][C:3]([H:12])([H:13])[H:14])[O:6][H:8]>>[C:1]([C:2]([O:5][C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([C:4]([H:15])([H:16])[H:17])([O:6][H:8])[O:7][H:9],72.83831750001156
MR_56252_1,[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:6](=[C:7](/[C:5]([C:4]([H:19])([H:20])[H:21])=[C:8]([H:22])[H:23])[H:12])[H:11])([O:9][C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:6](/[C:7]([C:5]([C:4]([H:19])([H:20])[H:21])=[C:8]([H:22])[H:23])([O:9][C:2]([H:13])([H:14])[H:15])[H:12])[H:11])[H:10],56.96068500000649
MR_363485_0,[C:1]([C:3](=[C:2]([O:5][H:8])[O:6][H:7])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:2]([O:5][H:8])([O:6][H:7])[H:10])=[N:4]/[H:9])([H:11])([H:12])[H:13],66.02303999999023
MR_635099_0,[C@@:1]([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]\[C:2]([H:12])([H:13])[H:14])([O:7][N:6]([H:10])[H:11])[H:9]>>[C@@:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C@@:5]([C:4]([H:18])([H:19])[H:20])([O:7][N:6]([H:10])[H:11])[N:8]1[C:2]([H:12])([H:13])[H:14],72.99393749997535
MR_594946_1,[C:1]([N:2](/[C:3](=[C:4](\[O:7][H:10])[H:12])[O:6][H:9])/[C:5](=[N:8]\[H:11])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:3](/[C@@:4]([C:5]([N:8][H:11])[H:13])([O:7][H:10])[H:12])[O:6][H:9])([H:14])([H:15])[H:16],56.097244999974976
MR_547444_1,[C:1](/[C:3]([N:2]([C:4]([N:7]([H:14])[H:15])=[C:8]([H:19])[H:20])[N:5]([H:10])[H:11])=[N:9]\[N:6]([H:12])[H:13])([H:16])([H:17])[H:18]>>[C:1](/[C:3](=[N:2]/[N:5]([H:10])[H:11])[N:9]([C:4]([N:7]([H:14])[H:15])=[C:8]([H:19])[H:20])[N:6]([H:12])[H:13])([H:16])([H:17])[H:18],50.10461999998114
MR_394694_2,[C:1]1([O:6][H:10])([H:12])[C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])([O:7][H:11])[O:8]1>>[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])=[O:8])([O:6][H:10])([O:7][H:11])[H:12],28.16282750002017
MR_298117_0,[N:1]([O:6]/[C:2](=[C:3](/[O:7][C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9]>>[N:1]([O:6][C:2]([C:3](=[O:7])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:10])([H:8])[H:9],67.44181750001076
MR_636432_1,[C:1]([N:4](/[C:7]([C:3]([H:20])([H:21])[H:22])=[C:6](/[N:5]([C:2]([H:17])([H:18])[H:19])[H:11])[O:9][H:10])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:4](/[C:6](=[C:7](\[C:3]([H:20])([H:21])[H:22])[N:5]([C:2]([H:17])([H:18])[H:19])[H:11])[O:9][H:10])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16],49.96343249998091
MR_630864_1,[C:1]([N:3]([C:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])=[C:6]([H:16])[H:17])[O:7][H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:4](=[C:6]([H:16])[H:17])[O:7][H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12],62.78702249999213
MR_431402_0,[C:1]([O:7][C:3]([O:6]/[N:8]=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([O:7][C:4]([C:2]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])[N:8]1[C:3](=[O:9])[O:6]1)([H:12])([H:13])[H:14],68.07308249998641
MR_214193_1,[C@:1]([N:2]([H:10])[H:11])(/[C:4](=[C:3](/[O:6][H:8])[H:12])[H:13])([O:5][H:7])[H:9]>>[C:1](\[N:2]([H:10])[H:11])(=[C:4](\[C:3]([O:5][H:7])([O:6][H:8])[H:12])[H:13])[H:9],47.26957500000509
MR_563484_1,[N:1]([C:2]([O:5][H:9])=[O:7])([C:3]([O:6][H:10])=[O:8])[N:4]([H:11])[H:12]>>[N:1]([C:2]([C:3]([O:6][H:10])=[O:8])=[O:7])([N:4]([H:11])[H:12])[O:5][H:9],69.31678749998525
